US05942544
Part A. Sodium methoxide (25% in MeOH, 1.5 mL, 6.8 mmol) was added dropwise to a solution of 3-acetylbenzonitrile (0.987 gm, 6.8 mmol) and 4-cyanobenzaldehyde (0.891 gm, 6.8 mmol) in dry methanol. Within 5 minutes, a precipitate began to form. The mixture was stirred at room temperature for 4 hrs and diluted with methanol. The solids were filtered off, washed with cold methanol and dried to give 3-[3-(4-cyanophenyl)-1-oxo-2-propenyl]benzonitrile as a white solid 1.7 gm (97%). MS: (M+H)+ 259; 1H NMR (CDCl3): 7.55 (d, 1H), 7.65 (t, 1H), 7.75 (s, 4H), 7.85 (m, 2H), 8.25 (d, 1H), 8.30 (s, 1H).

reactant | Sodium methoxide | 6.8 mmol, 1.5 mL | C[O-].[Na+]
reactant | 3-acetylbenzonitrile | 6.8 mmol, 0.987 gm | C(C)(=O)C=1C=C(C#N)C=CC1 | C9H7NO
reactant | 4-cyanobenzaldehyde | 6.8 mmol, 0.891 gm | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
solvent | methanol | CO | CH4O
product | 3-[3-(4-cyanophenyl)-1-oxo-2-propenyl]benzonitrile | 1.7 gm, 97% | C(#N)C1=CC=C(C=C1)C=CC(=O)C=1C=C(C#N)C=CC1 | C17H10N2O
